US03956500
A quantity of 4.3 grams of 4-oximino-5-methyl-1,3-oxathiolane was caused to react with 3.5 ml of methylisocyanate in the presence of dibutyltin diacetate in ethyl ether and worked up as described in Example I to give 6 grams of crude 4-(methylcarbamoyloximino)-5-methyl-1,3-oxathiolane. Recrystallization from isopropyl ether/ethyl acetate afforded pure syn isomer, mp 70.0°-71.5°; structure confirmed by spectral analysis.

reactant | 4-oximino-5-methyl-1,3-oxathiolane | 4.3 grams | N(O)=C1SCOC1C | C4H7NO2S
reactant | methylisocyanate | 3.5 ml | CN=C=O | C2H3NO
reactant | dibutyltin diacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(CCC)[Sn+2]CCCC
solvent | ethyl ether | C(C)OCC | C4H10O
product | 4-(methylcarbamoyloximino)-5-methyl-1,3-oxathiolane | 6 grams | CNC(=O)ON=C1SCOC1C | C6H10N2O3S
